US08541407B2
To a solution of 6-(methylthio)-11H-benzo[e]pyrido[3,2-b][1,4]diazepine (2.5 g, 10.4 mmol) in dichloromethane (50 mL) and methanol (20 mL) was added the methyl 4-(hydrazinecarbonyl)benzoate (4.02 g, 20.7 mmol) followed by triethyl amine (1 mL) and p-toluenesulfonic acid monohydrate (3.3 g, 17.3 mmol). The reaction mixture was stirred at 70° C. for 20 hours. The mixture was partitioned between water (100 mL) and dichloromethane (150 mL). The phases were separated and the organic phase was washed with water (50 mL) and brine (50 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The residue was triturated from ethyl acetate, the solid filtered off and dried undet vacuum, yielding the methyl 4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)benzoate as a yellow solid (1.7 g, 44%). M.p.>300° C.; 400 MHz 1H NMR (DMSO-d6) δ: 8.83 (s, 1H), 8.23 (dd, J=4.8, 1.6 Hz, 1H), 8.02 (dt, J=8.8, 1.8 Hz, 2H), 7.97 (dd, J=8.0, 1.6 Hz, 1H), 7.58 (dt, J=8.8, 1.8 Hz, 2H), 7.45 (td, J=5.1, 1.6 Hz, 1H), 7.35 (d, J=7.2 Hz, 1H), 7.2-7.1 (m, 2H), 6.91 (dd, J=8.4, 4.8 Hz, 1H), 3.88 (s, 3H); LCMS [M+H]: 370.

reactant | 6-(methylthio)-11H-benzo[e]pyrido[3,2-b][1,4]diazepine | 10.4 mmol, 2.5 g | CSC=1C2=C(NC3=C(N1)C=CC=N3)C=CC=C2 | C13H11N3S
reactant | methyl 4-(hydrazinecarbonyl)benzoate | 20.7 mmol, 4.02 g | N(N)C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H10N2O3
reactant | triethyl amine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonic acid monohydrate | 17.3 mmol, 3.3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | methyl 4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)benzoate | 1.7 g, 44% | N=1N=C(N2C3=C(NC4=C(C21)C=CC=C4)N=CC=C3)C3=CC=C(C(=O)OC)C=C3 | C21H15N5O2
